US05084463
Step 5) Preparation of 2-[N-[3-(4-Aminophenoxy)propyl]methylamino methyl]quinoxaline
A mixture of 2-[N-[3-(4-nitrophenoxy)propyl]methylamino methyl]quinoxaline (1.75 g, 4.97 mmol) and PtO2 (0.14 g, 0.62 mmol) in ethanol (170 mL) was charged with 1 atmosphere H2 (g). After 30 minutes, the mixture was filtered through solka floc and concentrated to afford crude product which was purified by HPLC to yield 1.18 g (74%) of a yellow oil.

reactant | 2-[N-[3-(4-nitrophenoxy)propyl]methylamino methyl]quinoxaline | 4.97 mmol, 1.75 g | [N+](=O)([O-])C1=CC=C(OCCCN(C)CC2=NC3=CC=CC=C3N=C2)C=C1 | C19H20N4O3
solvent | ethanol | 170 mL | C(C)O | C2H6O
catalyst | PtO2 | 0.62 mmol, 0.14 g | O=[Pt]=O
product | 2-[N-[3-(4-Aminophenoxy)propyl]methylamino methyl]quinoxaline | 1.18 g, 74% | NC1=CC=C(OCCCN(C)CC2=NC3=CC=CC=C3N=C2)C=C1 | C19H22N4O
